US09428511B2
Step 2: 1-Benzyl 3-methyl 4-(methoxyimino)pyrrolidine-1,3-dicarboxylate
A solution of 1-benzyl 3-methyl 4-oxopyrrolidine-1,3-dicarboxylate (12 g, 43.2 mmol) in pyridine (50 mL) at 0° C. was added O-methylhydroxylamine hydrochloride (5.51 g, 66.0 mmol) which was stirred for 10 minutes, and then it was warmed up to RT and stirred for 16 hrs. The reaction mixture was concentrated to yield a crude product which was partitioned in 300 mL of 1N HCl and 300 mL of EtOAc. The organic layer was washed with 100 mL of brine. The combined aqueous phases were extracted with 200 mL of EtOAc. The combined organic phases were dried over Na2SO4. Filtration and concentration to yield the product (12.6 g, 95% yield).

reactant | 1-benzyl 3-methyl 4-oxopyrrolidine-1,3-dicarboxylate | 43.2 mmol, 12 g | O=C1C(CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C14H15NO5
reactant | O-methylhydroxylamine hydrochloride | 66.0 mmol, 5.51 g | Cl.CON
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 1-Benzyl 3-methyl 4-(methoxyimino)pyrrolidine-1,3-dicarboxylate | 12.6 g, 95% yield | CON=C1C(CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C15H18N2O5
